US07612114B2
6-{2-{[3-Fluoro-4-(2-pyrrolidin-1-ylethoxy)benzyl]methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 2-chloro-1-pyrrolidin-1-ylethanone (12 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (7.7 mg) was obtained.

reactant | pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | FC=1C=C(C(=O)CNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=CC1O | C30H32FNO5
reactant | 2-chloro-1-pyrrolidin-1-ylethanone | 12 mg | ClCC(=O)N1CCCC1 | C6H10ClNO
product | 6-{2-{[3-Fluoro-4-(2-pyrrolidin-1-ylethoxy)benzyl]methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 7.7 mg | FC=1C=C(CCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C=CC1OCCN1CCCC1 | C31H37FN2O3
